US07214681B2
NEt3 (63.4 mL, 455 mmol) was added to a stirred suspension of 5-bromothiazol-2-ylamine hydrobromide (102.7 g, 379 mmol) in CH2Cl2 (1.5 L). After 1 h, TFAA (64.2 mL, 455 mmol) was added dropwise at 0° C. over 15 min. The mixture was allowed to warm to 20° C. over 1 h, before being stirred for an additional 2 h. H2O (600 mL) was added and the resulting precipitate was collected. The aqueous layer of the filtrate was separated and extracted with CHCl3 (3×300 mL). The combined organic extracts were washed with brine, dried (Na2SO4), filtered and concentrated. The collected precipitate and residual solid were combined and triturated with EtOAc-n-C6H14 to give N-(5-bromothiazol-2-yl)-2,2,2-trifluoroacetamide: δH (CDCl3): 7.45 (1H, s), 13.05 (1H, br). n-BuLi (253 mL of a 1.58M solution in hexanes, 403 mmol) was added dropwise over 50 min to a stirred solution of the above amide (50.0 g, 183 mmol) in anhydrous THF (1.3 L) at −78° C. After 1.5 h, a solution of N-fluorobenzenesulphonimide (86.0 g, 275 mmol) in anhydrous THF (250 mL) was added dropwise over 30 min. The mixture was stirred for 3 h, before being warmed up to −30° C. H2O (300 mL) was added and the mixture was filtered through a Celite pad. The solid collected and Celite were washed with Et2O (400 mL) and H2O (400 mL). The organic layer of the filtrate was separated and extracted with water (2×400 mL). The combined aqueous layers were washed with Et2O (400 mL), before being acidified to pH 6.5 with 2M HCl and extracted with EtOAc (2×400 mL). The combined organic extracts were washed with H2O (2×400 mL) and brine, before being dried (MgSO4), filtered and concentrated. Column chromatography (EtOAc-n-C6H14, 1:3 to 1:2) gave N-(5-fluorothiazol-2-yl)-2,2,2-trifluoroacetamide: δH (CDCl3): 7.13 (1H, d). AcCl (12.6 mL, 175 mmol) was added dropwise to a stirred solution of this amide (15.7 g, 73 mmol) in MeOH (300 mL) at 0° C. The mixture was stirred at 20° C. for 30 min, heated under reflux for 1 h, and finally concentrated in vacuo. The residual solid was triturated with THF to give the title compound: δH (D2O): 7.00 (1H, d).

reactant | NEt3 | 455 mmol, 63.4 mL | CCN(CC)CC | C6H15N
reactant | 5-bromothiazol-2-ylamine hydrobromide | 379 mmol, 102.7 g | Br.BrC1=CN=C(S1)N
reactant | TFAA | 455 mmol, 64.2 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | H2O | 600 mL | O | H2O
solvent | CH2Cl2 | 1.5 L | C(Cl)Cl | CH2Cl2
product | N-(5-bromothiazol-2-yl)-2,2,2-trifluoroacetamide | BrC1=CN=C(S1)NC(C(F)(F)F)=O | C5H2BrF3N2OS
